US08877774B2
Step 3. Methyl 1-(4-((3-benzoylphenoxy)methyl)phenyl)cyclopropanecarboxylate
Methyl 1-(4-(bromomethyl)phenyl)cyclopropanecarboxylate (2.478 g, 9.207 mmol) was added to a mixture of 3-hydroxybenzophenone (2.19 g, 11.05 mmol) and potassium carbonate (3.054 g, 22.10 mmol) in dimethyl formamide (46 mL). The reaction mixture was stirred at 60° C. for 16 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with 10% aqueous potassium carbonate (×5), 2M NaOH (×5), brine and dried (magnesium sulfate), filtered, and concentrated under reduced pressure to afford the title compound (3.721 g, quantitative yield). The material was used directly in the next step with no further purification.

reactant | Methyl 1-(4-(bromomethyl)phenyl)cyclopropanecarboxylate | 9.207 mmol, 2.478 g | BrCC1=CC=C(C=C1)C1(CC1)C(=O)OC | C12H13BrO2
reactant | 3-hydroxybenzophenone | 11.05 mmol, 2.19 g | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
reactant | potassium carbonate | 22.10 mmol, 3.054 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 46 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 1-(4-((3-benzoylphenoxy)methyl)phenyl)cyclopropanecarboxylate | 3.721 g, quantitative yield | C(C1=CC=CC=C1)(=O)C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)OC)C=CC1 | C25H22O4
